US07220856B2
Preparation of (2S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-4-hydroxy-butanoic acid phenylmethyl ester (Richard F. W. Jackson, Rebecca J. Moore, and Charles S. Dexter, Jason Elliott and Charles E Mowbray, J. Org. Chem., 63, 7875–7884(1998)):
To a mixture of NaBH4 (1.4 g, 37 mmol) in THF (80 mL) and H2O (20 mL) was added a solution of (2S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[(2,5-dioxo-1-pyrrolidinyl)oxy]-butanoic acid phenylmethyl ester (10 g, 24 mmol) in THF at 0° C. After 15 min, the reaction mixture was quenched with NH4Cl (sat.), and extracted with EtOAc, dried over Na2SO4. Concentration in vacuo followed by flash chromatography (hexane-EtOAc, 7:3 to 6:4) afforded the product as colorless oil. LC-MS: 310 (M++1).

reactant | NaBH4 | 37 mmol, 1.4 g | [BH4-].[Na+]
reactant | (2S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[(2,5-dioxo-1-pyrrolidinyl)oxy]-butanoic acid phenylmethyl ester | 24 mmol, 10 g | C1(=CC=CC=C1)COC([C@H](CCON1C(CCC1=O)=O)NC(=O)OC(C)(C)C)=O | C20H26N2O7
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | (2S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-4-hydroxy-butanoic acid phenylmethyl ester | C1(=CC=CC=C1)COC([C@H](CCO)NC(=O)OC(C)(C)C)=O | C16H23NO5
